2132-12-29 07:52:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   Admitted--seen by overnight attg
   Low BPs overnight down to 70s; responded well to 250cc bolus; BP down
   again; woke pt up, repositioned, laid more flat in bed, SBPs in 100s
   This AM during rounds pt experienced acute respiratory decompensation,
   agitation. Unable to obtain ABG or CXR due to pt agitation, was
   intubated for airway protection.
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-29**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.8
C (96.4
   HR: 82 (73 - 82) bpm
   BP: 123/101(105){72/28(40) - 128/101(105)} mmHg
   RR: 26 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
             Total In:
                                                                     20 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                     20 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                    380 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                    -66 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Rhonchorous: ins+exp )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   10.9 g/dL
   119 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.9 mEq/L
   22 mg/dL
   102 mEq/L
   142 mEq/L
   33.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2132-12-29**]  04:37 AM
   WBC
   7.5
   Hct
   33.7
   Plt
   324
   Cr
   1.1
   Glucose
   119
   Other labs: CK / CKMB / Troponin-T:727//, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Imaging: AP CHEST RADIOGRAPH:  Lungs demonstrates moderate-to-large
   loculated right
   pleural effusion and adjacent atelectasis, not significantly changed in
   appearance from [**2132-12-7**].  The cardiomediastinal contour is
   stable.  No
   pneumothorax is detected.  Median sternotomy wires are redemonstrated.
   IMPRESSION:  Moderate-to-large loculated right-sided effusion and
   adjacent
   atelectasis.  Underlying consolidation not excluded.
   Microbiology: [**12-28**] blood and urine Cx NGTD
   Assessment and Plan
 RESPIRATORY FAILURE
 ddx includes ACS vs CHF exacerbation vs
   worsening infection. ABG with evidence of severe hypercarbia.
   Emergently intubated
   -- CE
s this AM no evidence of MI, trend q8 hrs. Treated acutely with
   ASA, BB, morphine,
   --  diuresed with 120mg IV lasix this AM
   --  maintain intubation and sedation with fentanyl and versed
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   n        continue levofloxacin (start [**12-28**]) q48h, consider broadening
   coverage if persistently febrile
   n        f/u sputum, blood, and urine cultures
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   --  f/u echo today
 LEUKOCYTOSIS
   etiology is likely PNA
 PLEURAL EFFUSION, CHRONIC
   for chest CT scan to better characterize effusion for potential
   thoracentesis
 .H/O HYPERTENSION, BENIGN
 not active
   Holding all antihypertensives in setting of post intubation hypotension
   ICU Care
   Nutrition:
   NPO for now pending duration of intubation. [**Month (only) 60**] need TFs
   Glycemic Control:
   Insulin sliding scale
   Lines:
   22 Gauge - [**2132-12-28**] 10:00 PM
   18 Gauge - [**2132-12-29**] 02:23 AM
   -- will place TLC today
   Prophylaxis:
   DVT: sQ heparin
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status:  full, grandson HCP is active decision maker
   Disposition: ICU care

2132-12-29 08:55:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Hypotensive overnight w/ response to fluid bolus.  Still SOB.  This am
   hypertensive, agitated, c/o chest pain
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-29**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 82 (73 - 82) bpm
   BP: 123/101(105){72/28(40) - 128/101(105)} mmHg
   RR: 26 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
             Total In:
                                                                     20 mL
                                                                    314 mL
   PO:
             TF:
   IVF:
                                                                     20 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                    130 mL
                                                                    470 mL
   Urine:
   90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -110 mL
                                                                   -156 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   324 K/uL
   119 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.9 mEq/L
   22 mg/dL
   102 mEq/L
   142 mEq/L
   33.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2132-12-29**]  04:37 AM
   WBC
   7.5
   Hct
   33.7
   Plt
   324
   Cr
   1.1
   Glucose
   119
   Other labs: CK / CKMB / Troponin-T:727//, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.7 mg/dL
   Imaging: CXR - large R pl effusion, diffuse incr interstitial/alv inf
   c/w CHF
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) - etiol
   unclear. Possible pneumonia and is on levofloxacin. Will culture sputum
   after intubation.
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC - appears to be
   evolving an acute MI with pulmonary edema.  We are intubating, will
   sedate. Not a candidate for intervention. Has received an aspirin, beta
   blocker. Will sedate with fentanyl.  Past echo suggested signif MR so
   likely ventricular fxn overestimated by her EF
   Myocardial ischemia
   MR
 [**Name13 (STitle) 366**] hypotensive through day  - responding to fluid bolus
 LEUKOCYTOSIS may be due to infection or possibly ischemia
 PLEURAL EFFUSION, CHRONIC - no intervention for now
 .H/O HYPERTENSION, BENIGN - now relatively hypotensive. [**Month (only) 60**] be in
   cardiogenic shock.
   Renal insufficiency - need to adjust meds for her creat clearance
   Anemia
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2132-12-28**] 10:00 PM
   18 Gauge - [**2132-12-29**] 02:23 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status:
   Disposition : ICU
   Critically Ill
   Total time spent:  65

2132-12-30 07:06:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
 EKG - At [**2132-12-29**] 08:30 AM
 INVASIVE VENTILATION - START [**2132-12-29**] 09:10 AM
 EKG - At [**2132-12-29**] 09:30 AM
 ARTERIAL LINE - START [**2132-12-29**] 10:00 AM
 TRANSTHORACIC ECHO - At [**2132-12-29**] 02:00 PM
 MULTI LUMEN - START [**2132-12-29**] 04:37 PM
   Right subclavian line placed
 FEVER - 101.1
F - [**2132-12-29**] 12:00 PM
   Troponin peaked at 0.03 with CK 727
   Aimed for even I/O given CVP 10
   Given IVF overnight for CVP 6 with low urine output and falling SBP to
   80s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-12-29**] 12:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2132-12-29**] 08:15 AM
   Metoprolol - [**2132-12-29**] 08:30 AM
   Morphine Sulfate - [**2132-12-29**] 08:40 AM
   Heparin Sodium (Prophylaxis) - [**2132-12-30**] 04:30 AM
   Midazolam (Versed) - [**2132-12-30**] 04:30 AM
   Fentanyl - [**2132-12-30**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-30**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.8
C (98.3
   HR: 74 (61 - 141) bpm
   BP: 98/41(64){80/29(46) - 116/53(72)} mmHg
   RR: 14 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.7 kg (admission): 25.5 kg
   Height: 58 Inch
    CVP: 10 (7 - 11)mmHg
   Total In:
                                                                  1,898 mL
                                                                    632 mL
   PO:
   TF:
   IVF:
                                                                  1,788 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  1,430 mL
                                                                    345 mL
   Urine:
                                                                  1,050 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: no spont resp
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 32.1 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/45/103/28/6
   Ve: 6.3 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: intubated and sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   270 K/uL
   9.5 g/dL
   109 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   21 mg/dL
   111 mEq/L
   146 mEq/L
   29.2 %
   4.8 K/uL
        [image002.jpg]
                             [**2132-12-29**]  04:37 AM
                             [**2132-12-29**]  08:56 AM
                             [**2132-12-29**]  12:28 PM
                             [**2132-12-29**]  12:55 PM
                             [**2132-12-29**]  06:25 PM
                             [**2132-12-29**]  09:01 PM
                             [**2132-12-29**]  09:19 PM
                             [**2132-12-30**]  04:16 AM
                             [**2132-12-30**]  04:26 AM
   WBC
   7.5
   4.8
   Hct
   33.7
   29.2
   Plt
   324
   270
   Cr
   1.1
   1.0
   0.9
   TropT
   <0.01
   0.03
   0.02
   0.01
   TCO2
   40
   34
   28
   32
   32
   Glucose
   119
   147
   109
   Other labs: CK / CKMB / Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.8 mg/dL, PO4:2.0 mg/dL
   Imaging: [**12-29**] Echo
   The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. There is mild regional
   left ventricular systolic dysfunction with mild hypokinesis of the
   anterior septum and anterior wall. Right ventricular chamber size and
   free wall motion are normal. The aortic valve leaflets (3) are mildly
   thickened but aortic stenosis is not present. The mitral valve leaflets
   are mildly thickened. There is no mitral valve prolapse. Mild (1+)
   mitral regurgitation is seen. Moderate [2+] tricuspid regurgitation is
   seen. There is mild pulmonary artery systolic hypertension. There is no
   pericardial effusion.
   IMPRESSION: Mild symmetric LVH. Mild regional systolic dysfunction.
   Mild mitral regurgitation with mild pulmonary artery systolic
   hypertension.
   *************************
   [**12-29**] CXR
   Status post intubation and nasogastric tube placement.
   Tracheostomy tube in standard position.  The nasogastric tube could be
   advanced, as described above.
   Microbiology: [**12-28**] and [**12-29**] BCx NGTD
   [**12-28**] UCx negative
   [**12-29**] Ucx PND
   [**12-29**] Sputum GRAM STAIN
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Pending):
   Assessment and Plan
 probable NSTEMI
   -          troponins remained relatively flat (peak 0.03), but likely
   had a transient coronary event given constellation of elevated CKs, EKG
   with newly flipped T waves, and new depressed EF and anterior
   hypokinesis seen on echo
   -          begin heparin gtt with bolus
   -          cards aware, will d/w Dr. [**Last Name (STitle) 404**] re: further rx. Not an
   interventional candidate.
   -          Continue medical therapy ASA, statin. Begin BB after
   hypotension resolves
 RESPIRATORY FAILURE
 likely caused by acute myocardial insult as
   above. Respiratory acidosis resolved on vent
   -          pt was oversedated this AM, could not obtain RSBI. Decrease
   sedation to attempt RSBI this PM, change to PSV
   -          if successful consider extubation this PM
   -
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          was febrile yesterday
   -          continue levofloxacin q48 (CrCl is 38 but likely
   overestimated given pt
s age and body type)
 HYPOTENSION
   -          CVP is [**9-13**], makes good urine with SBP in 80s
   -          No need for pressors, responds to prn fluid boluses
   -          Anticipate improvement following extubation and cessation of
   positive pressure ventilation
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -          deferring reimplementation of cardiac meds until stable BPs
 HYPERNATREMIA
   -          currently NPO and unable to fulfill thirst drive
   -          will treat with IV D5W pending possible extubation
   -          check PM lytes
 PLEURAL EFFUSION, CHRONIC
   -          deferring Ct chest and IP to tap pending stability of more
   acute issues
 LEUKOCYTOSIS
 resolved
   ICU Care
   Nutrition:
   Comments: NGT in place, pt is currently NPO
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2132-12-29**] 10:00 AM
   20 Gauge - [**2132-12-29**] 10:00 AM
   Multi Lumen - [**2132-12-29**] 04:37 PM
   Prophylaxis:
   DVT: SQ UF Heparin (will change and begin Systemic anticoagulation as
   above: )
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments: no rsbi as pt without spont resp this AM
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2132-12-31 07:17:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 EKG - At [**2132-12-30**] 10:45 AM
 INVASIVE VENTILATION - STOP [**2132-12-30**] 04:41 PM
   - extubated successfully
   - repeat EKG with resolved TWIs
   - at 4am became agitated, hypoxic, wheezing -> given 120IV lasix, nebs,
   hgh-flow O2 by FM
   - during rounds pt became tachy to 140s --?>Afib. Also tachypneic,
   agitated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-12-30**] 12:00 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-12-30**] 12:00 PM
   Heparin Sodium - [**2132-12-30**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-12-31**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 102 (70 - 102) bpm
   BP: 123/68(81){87/39(57) - 140/75(91)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.7 kg (admission): 25.5 kg
   Height: 58 Inch
    CVP: 5 (3 - 14)mmHg
   Total In:
                                                                  2,525 mL
                                                                    503 mL
   PO:
   TF:
   IVF:
                                                                  2,465 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  1,011 mL
                                                                  1,060 mL
   Urine:
                                                                  1,011 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,514 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   RR (Set): 14
   RR (Spontaneous): 20
   FiO2: 40%
   RSBI: 77
   PIP: 6 cmH2O
   Plateau: 17 cmH2O
   SpO2: 93%
   ABG: 7.41/46/108/28/3
   Ve: 6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Anxious, agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : b/l expiratory,
   Diminished: R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, language barrier
   Labs / Radiology
   300 K/uL
   9.9 g/dL
   127 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   142 mEq/L
   30.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2132-12-29**]  09:19 PM
                             [**2132-12-30**]  04:16 AM
                             [**2132-12-30**]  04:26 AM
                             [**2132-12-30**]  02:40 PM
                             [**2132-12-30**]  02:55 PM
                             [**2132-12-30**]  04:18 PM
                             [**2132-12-30**]  05:39 PM
                             [**2132-12-30**]  09:18 PM
                             [**2132-12-31**]  05:00 AM
                             [**2132-12-31**]  05:30 AM
   WBC
   4.8
   5.5
   Hct
   29.2
   30.8
   Plt
   270
   300
   Cr
   0.9
   0.8
   0.8
   TropT
   0.01
   TCO2
   32
   32
   33
   27
   28
   31
   30
   Glucose
   109
   133
   127
   Other labs: PT / PTT / INR:12.9/54.8/1.1, CK / CKMB /
   Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:2.9 mg/dL
   Imaging: [**12-30**] CXR
   FINDINGS:  In comparison with the study of [**12-29**], the endotracheal tube
   lies
   about 5.5 cm above the carina.  Some enlargement of the cardiac
   silhouette
   persists.  Increased opacification persists at the right base, and
   there is
   some continued blunting of the left costophrenic angle.  Right
   subclavian
   catheter again extends to the lower portion of the SVC, and the
   nasogastric
   tube extends well into the stomach.
   IMPRESSION:  Little overall change.
   Microbiology: [**12-29**] BCx pending
   [**12-29**] UCx negative
   [**12-29**] sputum: no growth (prelim)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): likely multifactorial,
   with large contribution from pulmonary edema [**1-3**] acute myocardial
   insult as above, also chronic pleural effusion as lesser contributor
   -          Diuresed aggressively this AM with rpt 120mg IV Lasix
   -          Goal -1L today
   -          consider IP c/s to tap effusion as there is surrounding
   atelectasis on her CXR
   -          continue supplemental O2 to keep sats >90%
 AFib with RVR
   -          Received 15mg IV metoprolol this AM,
   -          Dilt 10mg IV x 1, then 30mg po qid
   -          Not a candidtate for anticoagulation
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI) - likely had a
   transient coronary event  just prior to [**12-29**] given constellation of
   elevated CKs, EKG with newly flipped T waves, and new depressed EF and
   anterior hypokinesis seen on echo from [**12-29**]
   -          continue heparin gtt x 48 hours. Not an interventional
   candidate
   -          continue medical management with ASA, statin, add standing
   metoprolol 25mg [**Hospital1 **]
   -          add back home Imdur 30mg daily
   -          cards c/s appreciated, will see today
   -          repeat EKG
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -          add standing metoprolol 25mg [**Hospital1 **]
   -          diuresis goal as above
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          resolved, afebrile >24h
   -          continue levofloxacin q48h x 7 days total (day 1 [**12-28**])
 HYPERNATREMIA (HIGH SODIUM)
   -          resolved with D5W, now eunatremic and extubated, should be
   able to fulfill thirst drive
   -          check PM lytes
 AGITATION
   -          haldol prn
   -          minimize use of restraints
 PLEURAL EFFUSION, CHRONIC
   -          consider tap to improve associated atelectesis as seen on
   CXR, may be contributing to her hypoxia
   ICU Care
   Nutrition:
   Comments: regular low sodium diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2132-12-29**] 10:00 AM
   20 Gauge - [**2132-12-29**] 10:00 AM
   Multi Lumen - [**2132-12-29**] 04:37 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt
   Stress ulcer:
   VAP:  HOB elevation
   Need for restraints reviewed
   Comments: became agitated and self d/cing O2
   Communication:  Comments:
   Code status: spoke with family after their discussion with pt, made
   DNR/DNI
   Disposition: ICU

2132-12-31 09:05:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Episode of acute SOB, tachycardia at 4:00 am
   24 Hour Events:
 EKG - At [**2132-12-30**] 10:45 AM
 INVASIVE VENTILATION - STOP [**2132-12-30**] 04:41 PM
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-12-30**] 12:00 PM
   Infusions:
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-12-30**] 12:00 PM
   Heparin Sodium - [**2132-12-30**] 01:00 PM
   Haloperidol (Haldol) - [**2132-12-31**] 07:30 AM
   Metoprolol - [**2132-12-31**] 07:50 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Wheeze
   Flowsheet Data as of  [**2132-12-31**] 09:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 102 (70 - 102) bpm
   BP: 90/160(89){90/160(0) - 90/160(0)} mmHg
   RR: 22 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.7 kg (admission): 25.5 kg
   Height: 58 Inch
   CVP: 5 (3 - 11)mmHg
   Total In:
                                                                  2,525 mL
                                                                    526 mL
   PO:
   TF:
   IVF:
                                                                  2,465 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,011 mL
                                                                  2,460 mL
   Urine:
                                                                  1,011 mL
                                                                  2,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,514 mL
                                                                 -1,934 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 300 (300 - 300) mL
   RR (Set): 14
   RR (Spontaneous): 20
   FiO2: 40%
   RSBI: 77
   PIP: 6 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.41/46/108/28/3
   Ve: 6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   300 K/uL
   127 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   108 mEq/L
   142 mEq/L
   30.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2132-12-29**]  09:19 PM
                             [**2132-12-30**]  04:16 AM
                             [**2132-12-30**]  04:26 AM
                             [**2132-12-30**]  02:40 PM
                             [**2132-12-30**]  02:55 PM
                             [**2132-12-30**]  04:18 PM
                             [**2132-12-30**]  05:39 PM
                             [**2132-12-30**]  09:18 PM
                             [**2132-12-31**]  05:00 AM
                             [**2132-12-31**]  05:30 AM
   WBC
   4.8
   5.5
   Hct
   29.2
   30.8
   Plt
   270
   300
   Cr
   0.9
   0.8
   0.8
   TropT
   0.01
   TCO2
   32
   32
   33
   27
   28
   31
   30
   Glucose
   109
   133
   127
   Other labs: PT / PTT / INR:12.9/54.8/1.1, CK / CKMB /
   Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI) episode of pulm
   edema this am. Unclear what precipitated this event - agitation likely
   secondary rather than causal.  We are diuresing, adding beta blocker -
   will consider adding back her long acting nitrate and possibly
   diltiazem if her pressure will allow. Dr. [**Last Name (STitle) 404**] to see today.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - improving after lasix.
   Negative 1300. Suspect she will not benefit from much more diuresis
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) - remains
   on levoflox for 7d course
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
 HYPERNATREMIA (HIGH SODIUM) improved. Will monitor closely given
   substantial diuresis
 PLEURAL EFFUSION, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-12-29**] 08:24 AM
   Arterial Line - [**2132-12-29**] 10:00 AM
   20 Gauge - [**2132-12-29**] 10:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments: out of restraints
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: discussed prognosis with grandson (proxy)
   family does not wish her to suffer. We discussed her poor prognosis in
   view of unstable cardiac status despite aggressive care.  We will
   continue to treat her but will make sure she is comfortable and will
   not perform CPR or intubation as they offer her no benefit
   Code status: DNR
   Disposition : ICU
   Total time spent: 65
   Patient is critically ill

2133-01-01 07:45:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 EKG - At [**2132-12-31**] 08:08 AM
   - No further tachycardia, rate well controlled on po BB and po dilt
   (never needed IV dose)
   - Got lasix 40mg x 1 for low urine output
   - required restraints overnight, currently removed
   - no bowel movement x 4 days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-12-30**] 12:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Metoprolol - [**2132-12-31**] 12:00 PM
   Haloperidol (Haldol) - [**2132-12-31**] 02:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-1**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 56 (52 - 139) bpm
   BP: 135/55(83){95/40(60) - 135/63(314)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 67.2 kg (admission): 25.5 kg
   Height: 58 Inch
    CVP: 6 (6 - 15)mmHg
   Total In:
                                                                  1,080 mL
                                                                    143 mL
   PO:
                                                                    240 mL
                                                                     30 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    113 mL
   Blood products:
   Total out:
                                                                  3,341 mL
                                                                    580 mL
   Urine:
                                                                  3,341 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,261 mL
                                                                   -437 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress, Comfortable, cooperative
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: ? lipoma left neck
   Cardiovascular: (S1: Normal), (S2: Normal), regular rate, no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : ), wheezes throughout, scattered crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: no LE edema
   Skin:  Not assessed, Right subclavian in place, no erythema
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, Easily rousable, making eye contact
   [**Name (NI) 503**] / Radiology
   303 K/uL
   9.4 g/dL
   137 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   143 mEq/L
   29.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2132-12-30**]  04:26 AM
                             [**2132-12-30**]  02:40 PM
                             [**2132-12-30**]  02:55 PM
                             [**2132-12-30**]  04:18 PM
                             [**2132-12-30**]  05:39 PM
                             [**2132-12-30**]  09:18 PM
                             [**2132-12-31**]  05:00 AM
                             [**2132-12-31**]  05:30 AM
                             [**2132-12-31**]  03:15 PM
                             [**2133-1-1**]  03:23 AM
   WBC
   5.5
   5.0
   Hct
   30.8
   29.5
   Plt
   300
   303
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   32
   33
   27
   28
   31
   30
   Glucose
   133
   127
   115
   137
   Other [**Year (4 digits) **]: PT / PTT / INR:13.4/46.6/1.1, CK / CKMB /
   Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Imaging: CXR [**12-31**]:
   After extubation and retrieval of the nasogastric tube, unchanged
   radiographic appearance.
   Microbiology: UCx [**12-29**] negative
   Resp Cx [**12-29**] negative
   B Cx [**12-28**] and [**12-29**] pending
   Assessment and Plan
   [**Age over 90 323**]yo Russian speaking woman with CAD and CHF admitted with hypoxia.
   s/p cardiac ischemia [**12-29**].
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  multifactorial in the
   setting of acute coronary event with stiff heart causing episodes of
   pulmonary edema, chronic pleural effusion, and possible CHF.  Wheeze on
   exam most likely from pulmonary edema
   -          respiratory status improving
   -          continue to wean oxygen as tolerated
   -          would continue to diurese for goal of -1L today; monitor Cr
   -          no therapeutic advantage in pursuing tap of pleural
   effusion; will defer for the time being
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI): elevated CKs and
   EKG with flipped T waves [**12-29**] with new anterior hypokinesis on Echo.
   -          heparin gtt x 48 hours (complete today at noon)
   -          not a candidate for intervention
   -          medical management with ASA, metoprolol, statin
   -          doing well on home imdur
   -          appreciate cardiology consult
   -          follow EKG
 ATRIAL FIBRILLATION (AFIB), paroxysmal
   -          resolved
   -          continue beta blocker and diltiazem
   -          monitor
   # Fevers:  currently resolved
   -          continue treatment with levofloxacin q48h for total of 7
   days for possible pulmonary source (day 1 = [**12-28**])
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -          doing well with beta blocker and diuresis
 HYPERNATREMIA (HIGH SODIUM)
   -          currently resolved, but continue to monitor
   # Agitation:
   -          minimize restraints (currently not needed)
   -          continue haldol (QT 322)
   # Constipation:
   -          bowel regimen with senna, colace
   -          received bisacodyl last night; if no BM by this afternoon,
   would give dulcolax
 PLEURAL EFFUSION, CHRONIC
   -          defer tap as discussed above
   ICU Care
   Nutrition:
   Comments: low sodium diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2132-12-29**] 08:24 AM
   Arterial Line - [**2132-12-29**] 10:00 AM
   20 Gauge - [**2132-12-29**] 10:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments: Not currently needing restraints
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: Callout to floor

2133-01-01 11:14:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2132-12-31**] 08:08 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-12-30**] 12:00 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Metoprolol - [**2132-12-31**] 12:00 PM
   Haloperidol (Haldol) - [**2132-12-31**] 02:19 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Dyspnea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-1-1**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 56 (52 - 75) bpm
   BP: 131/54(80){96/40(60) - 151/75(96)} mmHg
   RR: 20 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 67.2 kg (admission): 25.5 kg
   Height: 58 Inch
   CVP: 16 (6 - 16)mmHg
   Total In:
                                                                  1,080 mL
                                                                    549 mL
   PO:
                                                                    240 mL
                                                                    330 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  3,341 mL
                                                                    670 mL
   Urine:
                                                                  3,341 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,261 mL
                                                                   -121 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   basilar)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   303 K/uL
   137 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   143 mEq/L
   29.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2132-12-30**]  04:26 AM
                             [**2132-12-30**]  02:40 PM
                             [**2132-12-30**]  02:55 PM
                             [**2132-12-30**]  04:18 PM
                             [**2132-12-30**]  05:39 PM
                             [**2132-12-30**]  09:18 PM
                             [**2132-12-31**]  05:00 AM
                             [**2132-12-31**]  05:30 AM
                             [**2132-12-31**]  03:15 PM
                             [**2133-1-1**]  03:23 AM
   WBC
   5.5
   5.0
   Hct
   30.8
   29.5
   Plt
   300
   303
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   32
   33
   27
   28
   31
   30
   Glucose
   133
   127
   115
   137
   Other labs: PT / PTT / INR:13.4/46.6/1.1, CK / CKMB /
   Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - seems almost certainly
   pulmonary edema but continuing abx for a 7d course
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI) Will (finally) d/c
   heparin. remains on beta blocker, statin, ASA. Not a candidate for an
   intervention
 ATRIAL FIBRILLATION (AFIB)
   paraoxysmal
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC remains in pulmonary
   edema but more stable this am after diuresis. We will continue to
   diurese but BP or creat may limit eventually.
 HYPERNATREMIA (HIGH SODIUM) -
 PLEURAL EFFUSION, CHRONIC - risk benefit suggests leaving this alone
   Overall prognosis remains poor but more stable. Will sned to floor with
   plan for early d/c as family would like her home if possible.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-12-29**] 08:24 AM
   Arterial Line - [**2132-12-29**] 10:00 AM
   20 Gauge - [**2132-12-29**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : floor
   Total time spent:  35

2133-01-02 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2133-1-1**] 12:00 PM
 ARTERIAL LINE - STOP [**2133-1-1**] 12:00 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2133-1-2**]
   02:00 AM
   At 3am, started getting out of bed, wanting to go home, pt pulled out
   foley catheter, all tubing, sat in chair (bed alarm off), and got
   dressed
 CALLED OUT, Family upset that she might share a room with another
   MRSA patient if transferred; family asked to be called if she gets a
   bed on the floor
   Diuresed with IV lasix for goal of -1L
   Heparin gtt stopped
   Noted to have QTc of 460-480 on EKG; monitor QT if we continue to give
   haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-12-30**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-1-1**] 11:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 59 (53 - 64) bpm
   BP: 125/49(70){98/43(63) - 138/104(107)} mmHg
   RR: 19 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.2 kg (admission): 25.5 kg
   Height: 58 Inch
    CVP: 22 (8 - 22)mmHg
   Total In:
                                                                  1,015 mL
                                                                    250 mL
   PO:
                                                                    790 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    300 mL
   Urine:
                                                                  2,070 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : b/l insp and exp)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   303 K/uL
   9.4 g/dL
   137 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   19 mg/dL
   105 mEq/L
   143 mEq/L
   29.5 %
   5.0 K/uL
        [image002.jpg] note: these are yesterdays labs, pt refused AM draw
                             [**2132-12-30**]  04:26 AM
                             [**2132-12-30**]  02:40 PM
                             [**2132-12-30**]  02:55 PM
                             [**2132-12-30**]  04:18 PM
                             [**2132-12-30**]  05:39 PM
                             [**2132-12-30**]  09:18 PM
                             [**2132-12-31**]  05:00 AM
                             [**2132-12-31**]  05:30 AM
                             [**2132-12-31**]  03:15 PM
                             [**2133-1-1**]  03:23 AM
   WBC
   5.5
   5.0
   Hct
   30.8
   29.5
   Plt
   300
   303
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   32
   33
   27
   28
   31
   30
   Glucose
   133
   127
   115
   137
   Other labs: PT / PTT / INR:13.4/46.6/1.1, CK / CKMB /
   Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L, Ca++:8.3 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Imaging: [**1-2**] CXR PND
   Microbiology: no positive data
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) multifactorial in the
   setting of acute coronary event with stiff heart causing episodes of
   pulmonary edema, chronic pleural effusion, and possible CHF.  Wheeze on
   exam most likely from pulmonary edema
   -          respiratory status stable
   -          would continue to diurese for goal of -1L today
   -          deferring thoracenteisis for R pleural effusion for the time
   being
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI) elevated CKs
   (through trop never bumped significantly) and EKG with flipped T waves
   [**12-29**] with new anterior hypokinesis on Echo.
   -          s/p heparin gtt
   -          medical management with ASA, metoprolol, statin, imdur
 ATRIAL FIBRILLATION (AFIB) Paroxysmal, currently borderline sinus
   brady
   -          continue beta blocker and diltiazem
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   -          beta blockade, lasix with goal -1 liter today as above
   # Fevers:  resolved
   -          continue treatment with levofloxacin q48h for total of 7
   days for possible pulmonary source (day 1 = [**12-28**])
 HYPERNATREMIA (HIGH SODIUM)
   -          recurred in setting of being able to tolerate po
s free
   access to water
   -          talked with nurse, will provide a pitcher of H2O next to
   patient
 PLEURAL EFFUSION, CHRONIC
   -          deferring management
   # Agitation:  possible ICU psychosis vs delirium
   -          minimize restraints (currently not needed)
   -          avoid haldol if possible given prolonged QT interval
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale, Comments:
   intermediate glucose control, consider uptitrating ISS
   Lines:
   20 Gauge - [**2132-12-29**] 08:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: called out

2133-01-02 12:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2133-1-1**] 12:00 PM
 ARTERIAL LINE - STOP [**2133-1-1**] 12:00 PM
 UNPLANNED LINE/CATHETER REMOVAL (PATIENT INITIATED) - At [**2133-1-2**]
   02:00 AM
   pt pulled out foley catheter
 CALLED OUT
   History obtained from Family / [**Hospital 56**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-1-2**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 58 (53 - 63) bpm
   BP: 121/80(90){98/43(63) - 129/104(107)} mmHg
   RR: 19 (16 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 67.2 kg (admission): 25.5 kg
   Height: 58 Inch
   CVP: 22 (22 - 22)mmHg
   Total In:
                                                                  1,015 mL
                                                                    490 mL
   PO:
                                                                    790 mL
                                                                    490 mL
   TF:
   IVF:
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                    300 mL
   Urine:
                                                                  2,070 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                    190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///35/
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : bilat)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   397 K/uL
   84 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.9 mEq/L
   20 mg/dL
   103 mEq/L
   148 mEq/L
   35.5 %
   6.3 K/uL
        [image002.jpg]
                             [**2132-12-30**]  02:40 PM
                             [**2132-12-30**]  02:55 PM
                             [**2132-12-30**]  04:18 PM
                             [**2132-12-30**]  05:39 PM
                             [**2132-12-30**]  09:18 PM
                             [**2132-12-31**]  05:00 AM
                             [**2132-12-31**]  05:30 AM
                             [**2132-12-31**]  03:15 PM
                             [**2133-1-1**]  03:23 AM
                             [**2133-1-2**]  04:31 AM
   WBC
   5.5
   5.0
   6.3
   Hct
   30.8
   29.5
   35.5
   Plt
   300
   303
   397
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   TCO2
   33
   27
   28
   31
   30
   Glucose
   133
   127
   115
   137
   84
   Other labs: PT / PTT / INR:12.1/26.8/1.0, CK / CKMB /
   Troponin-T:291/4/0.01, Lactic Acid:1.3 mmol/L, Ca++:9.0 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ATRIAL FIBRILLATION (AFIB)
   paraoxysmal
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC has stabilized. No
   further episodes of ischemia. Clinically still has substantial CHF but
   is generally comfortable. BP is somewhat higher so will push diuresis
   further.
 HYPERNATREMIA (HIGH SODIUM) - improved
 PLEURAL EFFUSION, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-12-29**] 08:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : floor then home
   Total time spent:  35